### PR TITLE
[Merged by Bors] - feat(Data.Finset): add `Finset.filterMap`

### PR DESCRIPTION
**Pull request by timotree3**
---
[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/.60Set.20.CE.B1.20.C3.97.20Set.20.CE.B2.20.E2.89.83.20Set.20.28.CE.B1.20.E2.8A.95.20.CE.B2.29.60)

I didn't bother translating all of the lemmas from `Multiset.filterMap`. And there's a couple lemmas I'm not sure about. Feel free to just remove them.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Option/Basic.lean [hunk 1]
```diff
@@ -68,6 +68,11 @@ theorem eq_of_mem_of_mem {a : α} {o1 o2 : Option α} (h1 : a ∈ o1) (h2 : a 
   h1.trans h2.symm
 #align option.eq_of_mem_of_mem Option.eq_of_mem_of_mem
 
+-- TODO: Is this lemma worth having? If not, it can just be
+-- replaced with `(by simp)` where it's used.
+theorem mem_some_eucl {a a' b : α} : b ∈ some a → b ∈ some a' → a = a' :=
```
Comment (semorrison) [inline Mathlib/Data/Option/Basic.lean:73]: It certainly needs renaming, I can't work out what `eucl` is.

`eq_of_mem_some_of_mem_some`?

File: Mathlib/Data/Finset/Image.lean [hunk 2]
```diff
@@ -657,6 +660,56 @@ theorem biUnion_singleton {f : α → β} : (s.biUnion fun a => {f a}) = s.image
...
+
+variable (f : α → Option β) {s t : Finset α} {f_inj : ∀ a a' b, b ∈ f a → b ∈ f a' → a = a'}
+
+@[simp]
+theorem mem_filterMap {b : β} : b ∈ s.filterMap f f_inj ↔ ∃ a ∈ s, f a = some b :=
+  s.val.mem_filterMap f
+
+-- TODO: This was added in analogy to `coe_map`, but is this `simp` lemma even good?
+-- It might be nicer if it coerced `PFun.image f s` instead, but that's ill-typed because
+-- `f` is not a `PFun`.
```
Comment (semorrison) [inline Mathlib/Data/Finset/Image.lean:697]: Looks okay to me.

File: Mathlib/Data/Finset/Image.lean [hunk 3]
```diff
@@ -657,6 +660,56 @@ theorem biUnion_singleton {f : α → β} : (s.biUnion fun a => {f a}) = s.image
...
+@[simp, norm_cast]
+theorem coe_filterMap : (s.filterMap f f_inj : Set β) = {b | ∃ a ∈ s, f a = some b} :=
+  Set.ext (by simp only [mem_coe, mem_filterMap, Option.mem_def, Set.mem_setOf_eq, implies_true])
+
+@[simp]
+theorem filterMap_some : s.filterMap some Option.mem_some_eucl = s :=
```
Comment (semorrison) [inline Mathlib/Data/Finset/Image.lean:703]: Just make the proof an implicit argument of the theorem here: it doesn't matter which proof appears here!

File: Mathlib/Data/Option/Basic.lean (hunk 1 above)
Comment (semorrison) [reply Mathlib/Data/Option/Basic.lean:73]: Please remove.

File: Mathlib/Data/Finset/Image.lean [hunk 4]
```diff
@@ -657,6 +660,56 @@ theorem biUnion_singleton {f : α → β} : (s.biUnion fun a => {f a}) = s.image
...
+
+  In notation, `filterMap f s` is the finset `{b : β | ∃ a, f a = some b}`. -/
+-- TODO: should there be `filterImage` too?
+def filterMap (f : α → Option β) (s : Finset α)
+    (f_inj : ∀ a a' b, b ∈ f a → b ∈ f a' → a = a') : Finset β :=
+  ⟨s.val.filterMap f, s.nodup.filterMap f f_inj⟩
+
+@[simp]
+theorem filterMap_val (f : α → Option β) (s : Finset α)
+    {f_inj : ∀ a a' b, b ∈ f a → b ∈ f a' → a = a'} :
```
Comment (semorrison) [inline Mathlib/Data/Finset/Image.lean:680]:
```suggestion
theorem filterMap_val (f : α → Option β) (s : Finset α) {f_inj} :
```

File: Mathlib/Data/Finset/Image.lean [hunk 5]
```diff
@@ -657,6 +660,56 @@ theorem biUnion_singleton {f : α → β} : (s.biUnion fun a => {f a}) = s.image
...
+    (filterMap f s f_inj).1 = s.1.filterMap f :=
+  rfl
+
+@[simp]
+theorem filterMap_empty (f : α → Option β) {f_inj : ∀ a a' b, b ∈ f a → b ∈ f a' → a = a'} :
```
Comment (semorrison) [inline Mathlib/Data/Finset/Image.lean:685]:
```suggestion
theorem filterMap_empty (f : α → Option β) {f_inj} :
```

File: Mathlib/Data/Finset/Image.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Data/Finset/Image.lean:703]: I don't agree, making it an argument means this can't be used to rewrite backwards

File: Mathlib/Data/Option/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Option/Basic.lean:73]: I think this should be inlined into the statement of the other lemma

File: Mathlib/Data/Finset/Image.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Data/Finset/Image.lean:703]:
```suggestion
theorem filterMap_some : s.filterMap some (by simp)  = s :=
```

File: Mathlib/Data/Option/Basic.lean (hunk 1 above)
Comment (timotree3) [reply Mathlib/Data/Option/Basic.lean]: Removed! My thought with naming was that this is a proof that `(· ∈ some ·)` is a Euclidean relation.

File: Mathlib/Data/Finset/Image.lean (hunk 3 above)
Comment (timotree3) [reply Mathlib/Data/Finset/Image.lean]: Changed to `(by simp)`

File: Mathlib/Data/Finset/Image.lean (hunk 4 above)
Comment (timotree3) [reply Mathlib/Data/Finset/Image.lean]: I moved the `variable` declaration up instead

File: Mathlib/Data/Finset/Image.lean [hunk 6]
```diff
@@ -657,6 +659,49 @@ theorem biUnion_singleton {f : α → β} : (s.biUnion fun a => {f a}) = s.image
...
+
+@[simp, norm_cast]
+theorem coe_filterMap : (s.filterMap f f_inj : Set β) = {b | ∃ a ∈ s, f a = some b} :=
+  Set.ext (by simp only [mem_coe, mem_filterMap, Option.mem_def, Set.mem_setOf_eq, implies_true])
+
+@[simp]
+theorem filterMap_some : s.filterMap some (by simp) = s :=
+  ext fun _ => by simp only [mem_filterMap, Option.some.injEq, exists_eq_right]
+
+theorem filterMap_sub_filterMap (h : s ⊆ t) :
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Image.lean:698]:
```suggestion
theorem filterMap_subset_filterMap (h : s ⊆ t) :
```

File: Mathlib/Data/Finset/Image.lean [hunk 7]
```diff
@@ -657,6 +659,49 @@ theorem biUnion_singleton {f : α → β} : (s.biUnion fun a => {f a}) = s.image
...
+
+@[simp, norm_cast]
+theorem coe_filterMap : (s.filterMap f f_inj : Set β) = {b | ∃ a ∈ s, f a = some b} :=
+  Set.ext (by simp only [mem_coe, mem_filterMap, Option.mem_def, Set.mem_setOf_eq, implies_true])
+
+@[simp]
+theorem filterMap_some : s.filterMap some (by simp) = s :=
+  ext fun _ => by simp only [mem_filterMap, Option.some.injEq, exists_eq_right]
+
+theorem filterMap_subset_filterMap (h : s ⊆ t) :
```
Comment (fpvandoorn) [inline Mathlib/Data/Finset/Image.lean:698]:
```suggestion
theorem filterMap_mono (h : s ⊆ t) :
```
I significantly prefer the `mono` naming scheme. However, since that would make it inconsistent with the `Multiset` version, feel free to keep it as is.

bors d+
